resistor_cube - fault test
V1 n7 0 DC 12
R1 0 n1 1.006467
R2 0 n2 1.018841
R3 0 n4 0.980654
R4 n1 n3 1.016248
C5 n1 n5 7.53e-06
R6 n2 n3 1.001673
R7 n2 n6 1.003566
R8 n3 n7 0.992561
R9 n4 n5 1.002476
R10 n4 n6 1.000947
R11 n5 n7 1.015824
R12 n6 n7 1.013632
.op
.control
run
print v(n1) v(n2) v(n3) v(n4) v(n5) v(n6) v(n7)
print @r1[i] @r2[i] @r3[i] @r4[i] @r6[i] @r7[i] @r8[i] @r9[i] @r10[i] @r11[i] @r12[i]
.endc
.end
